US08809525B2
(iv) 4-(3-amino-5-phenyl-1,2,4-triazin-6-yl)-2-iodophenol
4-(3-Amino-5-phenyl-1,2,4-triazin-6-yl)-phenol (vide supra; 140 mg, 0.530 mmol) was reacted with AcOH (2 mL) and 1-iodopyrrolidine-2,5-dione (119 mg, 0.530 mmol). The mixture was stirred at room temperature for 1 hour then concentrated in vacuo and purified by column chromatography (35 mg, 32%).

reactant | 4-(3-Amino-5-phenyl-1,2,4-triazin-6-yl)-phenol | 0.530 mmol, 140 mg | NC=1N=NC(=C(N1)C1=CC=CC=C1)C1=CC=C(C=C1)O | C15H12N4O
reactant | 1-iodopyrrolidine-2,5-dione | 0.530 mmol, 119 mg | IN1C(CCC1=O)=O | C4H4INO2
solvent | AcOH | 2 mL | CC(=O)O | C2H4O2
product | 4-(3-amino-5-phenyl-1,2,4-triazin-6-yl)-2-iodophenol | NC=1N=NC(=C(N1)C1=CC=CC=C1)C1=CC(=C(C=C1)O)I | C15H11IN4O
